US07368578B2
To a mixture of ethyl 5-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]thiophene-2-carboxylate (0.63 g), tetrahydrofuran (3 mL) and ethanol (3 mL) was added 1N aqueous sodium hydroxide solution (3 mL), and the mixture was stirred at 60° C. for 1 hr. To the reaction mixture were added 1N hydrochloric acid (5 mL) and water, and the precipitated crystals were collected by filtration to give 5-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]thiophene-2-carboxylic acid as colorless crystals (0.51 g, yield 85%). Recrystallization from acetone-hexane gave colorless prism crystals. melting point: 150-151° C.

reactant | ethyl 5-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]thiophene-2-carboxylate | 0.63 g | C(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(S2)C(=O)OCC)C=C1)OC | C36H34N4O6S2
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 5-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]thiophene-2-carboxylic acid | 0.51 g, yield 85% | C(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(S2)C(=O)O)C=C1)OC | C34H30N4O6S2
